US07638625B2
4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide-naphthalene-1,5-disulphonate (6d)
A solution of 1.427 g naphthalene-1,5-disulphonic acid (4.95 mmol) in 70 ml isopropanol is added to 3.25 g (4.94 mmol) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide and heated to 80° C. The now clear solution is cooled to ambient temperature, by lowering the temperature of the heating bath by 5° C. every 6 hours. The resultant suspension is filtered, the isolated solid is dried for 12 hours at 40° C.

reactant | naphthalene-1,5-disulphonic acid | 4.95 mmol, 1.427 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
reactant | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 4.94 mmol, 3.25 g | C(C)C=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC | C38H55N7O3
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide naphthalene-1,5-disulphonate | C(C)C=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC.C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C38H55N7O3.C10H8O6S2/c1-4-29-11-10-28(26-30(29)5-2)27-35(36(46)43-24-22-42(23-25-43)32-13-17-41(3)18-14-32)40-37(47)44-19-15-33(16-20-44)45-21-12-31-8-6-7-9-34(31)39-38(45)48;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h6-11,26,32-33,35H,4-5,12-25,27H2,1-3H3,(H,39,48)(H,40,47);1-6H,(H,11,12,13)(H,14,15,16)/p-2/t35-;/m1./s1
